US05536727
Preparation of 17β-(4-acetamidophenoxy)-4-methyl-5α-4-azaandrostan-3-one
To 17β-(4-aminophenoxy)-4-methyl-5α-4-azaandrostan-3-one hydrochloride (7mg) in CH2Cl2 (100 μl) was added acetic anhydride (30 μl) followed by adding pyridine (50 μl). The mixture was stirred at room temperature for 2 hr and then concentrated to dryness. The residue was purified via a silica gel plate developed with 5% MeOH--EtOAc (Rf =0.3) to give the title product, mp. 340° C.

reactant | 17β-(4-aminophenoxy)-4-methyl-5α-4-azaandrostan-3-one hydrochloride | 7mg | Cl.NC1=CC=C(O[C@@H]2[C@]3(C)[C@@H](CC2)[C@@H]2CC[C@H]4N(C(CC[C@]4(C)[C@H]2CC3)=O)C)C=C1
reactant | acetic anhydride | 30 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 50 μl | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 100 μl | C(Cl)Cl | CH2Cl2
product | 17β-(4-acetamidophenoxy)-4-methyl-5α-4-azaandrostan-3-one | C(C)(=O)NC1=CC=C(O[C@@H]2[C@]3(C)[C@@H](CC2)[C@@H]2CC[C@H]4N(C(CC[C@]4(C)[C@H]2CC3)=O)C)C=C1 | C27H38N2O3
